US05441984
A. 3,5-Bis(1,1-dimethylethyl)-4-methoxy-benzoic acid
To 50 g {200 mmol) of 3,5-bis(1,1-dimethylethyl)-4-hydroxy benzoic acid dissolved in 1.1 liters of a 10/1 tetrahydrofuran/dimethylformamide solution were added 24.0 g of a sodium hydride dispersion (60%, by weight, sodium hydride dispersed in mineral oil). The sodium hydride dispersion was added portionwise at a rate such that the reaction solution temperature was kept below 35° C. The resulting solution was stirred for 19 hours and then 28.4 g (220 mmol) of methyl iodide were added. The resulting solution was stirred for 22 hours and then 25 ml of water were added to quench the reaction. Four hundred milliliters of a 1N hydrochloric acid solution were then added in order to acidify the quenched solution. The acidic solution was then concentrated and extracted three times with ethyl acetate. The ethyl acetate extracts were combined, washed three times with water and once with a saturated brine solution and then concentrated to dryness to provide residue. This residue was crystallized from a hexane/methylene chloride solution to provide 34.62 of title product m.p. 192°-195° C.

reactant | 3,5-bis(1,1-dimethylethyl)-4-hydroxy benzoic acid | CC(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
reactant | sodium hydride | 24.0 g | [H-].[Na+]
reactant | methyl iodide | 220 mmol, 28.4 g | CI | CH3I
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran dimethylformamide | O1CCCC1.CN(C=O)C
solvent | water | 25 ml | O | H2O
product | 3,5-Bis(1,1-dimethylethyl)-4-methoxy-benzoic acid | CC(C)(C)C=1C=C(C(=O)O)C=C(C1OC)C(C)(C)C | C16H24O3
